US04959366
(A) N-(4-Nitrophenethyl)-4-nitrophenethylamine
4-Nitrophenethylamine (4 g), 4-nitrophenethyl bromide (5.54 g) and potassium carbonate (3.32 g) were heated under reflux in acetonitrile (50 ml) for 2 days. The solvent was then evaporated, the residue taken up in ethyl acetate and washed three times with aqueous sodium carbonate and three times with brine. The organic phase was dried (Na2SO4), filtered and evaporated, and the residual oil was purified by chromatography on silica eluting with methylene chloride containing methanol (0% up to 5%). The product-containing fractions were combined and the solvent evaporated to give a solid which was recrystallised from ethyl acetate/hexane to give the title compound, yield 2.0 g, m.p. 86°-91°.

reactant | 4-Nitrophenethylamine | 4 g | [N+](=O)([O-])C1=CC=C(CCN)C=C1 | C8H10N2O2
reactant | 4-nitrophenethyl bromide | 5.54 g | [N+](=O)([O-])C1=CC=C(CCBr)C=C1 | C8H8BrNO2
reactant | potassium carbonate | 3.32 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N-(4-Nitrophenethyl)-4-nitrophenethylamine | [N+](=O)([O-])C1=CC=C(CCNCCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C16H17N3O4
